US05668291
2-Acetylamino-3-[2-(4-sulfamoylphenylcarbamoyl)phenyldisulfanyl]-propionic acid
This compound was prepared according to the method of Example 132 using 0.8 g (2.4 mmol) of 4-(3-oxo-3H-benzo[d]isothiazol-2-yl)benzenesulfonamide and 0.39 g (2.4 mmol) of N-acetyl-L-cysteine. The product was washed with ether and dried in vacuo to give 0.92 g of the title compound, mp 218°-220° C.

reactant | 4-(3-oxo-3H-benzo[d]isothiazol-2-yl)benzenesulfonamide | 2.4 mmol, 0.8 g | O=C1N(SC2=C1C=CC=C2)C2=CC=C(C=C2)S(=O)(=O)N | C13H10N2O3S2
reactant | N-acetyl-L-cysteine | 2.4 mmol, 0.39 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
product | 2-Acetylamino-3-[2-(4-sulfamoylphenylcarbamoyl)phenyldisulfanyl]-propionic acid | 0.92 g | C(C)(=O)NC(C(=O)O)CSSC1=C(C=CC=C1)C(NC1=CC=C(C=C1)S(N)(=O)=O)=O | C18H19N3O6S3
